US05889026
4-Benzyl-1-[3-(4-benzyloxy-phenoxy)-propyl]-piperidin-4-ol
The title compound, MS: m/e=432.6 (M+H+), was prepared from 1-(2-bromopropoxy)-4-(benzyloxy)-benzene and 4-benzyl-piperidin-4-ol.

reactant | 1-(2-bromopropoxy)-4-(benzyloxy)-benzene | BrC(COC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C16H17BrO2
reactant | 4-benzyl-piperidin-4-ol | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
product | 4-Benzyl-1-[3-(4-benzyloxy-phenoxy)-propyl]-piperidin-4-ol | C(C1=CC=CC=C1)C1(CCN(CC1)CCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)O | C28H33NO3
